US03974161
A. 6,7-Methylenedioxy-2-Aminoquinoline-3-Carboxamide
To sodium methoxide (1.90 g., 0.03 mole) in methanol (50 ml.) is added 4,5-methylenedioxy-2-aminobenzaldehyde (5.0 g., 0.03 mole) and 2-cyanoacetamide (2.50 g., 0.03 mole). The mixture is heated to reflux for 15 minutes and then cooled in an ice bath. The bright yellow solid is filtered off and recrystallized from acetic acid to give 6.18 g. (89.3%) of the desired product. M.P. 308° C. (dec.). (m/e = 231)

reactant | sodium methoxide | 0.03 mole, 1.90 g | C[O-].[Na+]
reactant | 4,5-methylenedioxy-2-aminobenzaldehyde | 0.03 mole, 5.0 g | C1OC2=CC(=C(C=O)C=C2O1)N | C8H7NO3
reactant | 2-cyanoacetamide | 0.03 mole, 2.50 g | C(#N)CC(=O)N | C3H4N2O
solvent | methanol | 50 ml | CO | CH4O
product | 6,7-Methylenedioxy-2-Aminoquinoline-3-Carboxamide | 89.3% | C1OC=2C=C3C=C(C(=NC3=CC2O1)N)C(=O)N | C11H9N3O3
